US09212182B2
A flask was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (Bellen Chemistry Co., 3.2 g, 10.21 mmol), 1-chloro-5-iodo-4-methoxy-2-(trifluoromethyl)benzene (4.12 g, 12.25 mmol), cesium carbonate (4.66 g, 14.29 mmol), Pd2(dba)3 (0.234 g, 0.255 mmol), and (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.295 g, 0.511 mmol) (XANTPHOS). The flask was flushed with nitrogen and a reflux condensor was added. CPME (20.42 mL) was added and the flask was heated to 100° C. with vigorous stirring. The reaction was stopped at 24 h and cooled to RT. Water and EtOAc were added (30 mL each), and the layers were separated. The aqueous layer was extracted again with EtOAc (50 mL). The combined organics were passed through a plug of Celite/silica to remove Pd, and the orange filtrate was concentrated. The residue was triturated with isopropanol, filtered through a medium glass frit, and the solid was dried under high vac to provide (E)-ethyl 3-(5-(benzylthio)-2-((5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)amino)phenyl)acrylate (5.48 g, 10.50 mmol, 103% yield). m/z (ESI) 520.2 (M−H)−.

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 10.21 mmol, 3.2 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | 1-chloro-5-iodo-4-methoxy-2-(trifluoromethyl)benzene | 12.25 mmol, 4.12 g | ClC1=C(C=C(C(=C1)I)OC)C(F)(F)F | C8H5ClF3IO
reactant | cesium carbonate | 14.29 mmol, 4.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.255 mmol, 0.234 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.511 mmol, 0.295 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | (E)-ethyl 3-(5-(benzylthio)-2-((5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)amino)phenyl)acrylate | 10.50 mmol, 5.48 g, 103% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Cl)C(F)(F)F)OC | C26H23ClF3NO3S
